US03971812
This press cake is introduced with intensive stirring into 34.7 parts of 90% strength sulphuric acid, the solution is warmed to 120°-125° until no further 1-isopropylamino-5-methoxy-anthraquinone is chromatographically detectable in a worked-up sample (about 3 hours are required) and is diluted with 18 parts of water at 50°-80°, the mixture is stirred overnight in the cold, and the sulphate which has precipitated in large boat-shaped plates is filtered off, washed with 50% strength sulphuric acid, decomposed with water, and the product washed until neutral and dried. 12.9 parts (90% of theory) of 1-isopropylamino-5-hydroxy-anthraquinone are obtained.

reactant | sulphuric acid | S(O)(O)(=O)=O | H2O4S
reactant | 1-isopropylamino-5-methoxy-anthraquinone | C(C)(C)NC1=CC=CC=2C(C3=C(C=CC=C3C(C12)=O)OC)=O | C18H17NO3
reactant | sulphate | S(=O)(=O)([O-])[O-]
solvent | water | O | H2O
product | 1-isopropylamino-5-hydroxy-anthraquinone | 90% | C(C)(C)NC1=CC=CC=2C(C3=C(C=CC=C3C(C12)=O)O)=O | C17H15NO3
